US06177423B1
2-Hydroxy-5-nitro-benzo[de]isoquinoline-1,3-dione
Hydroxylamine hydrochloride (0.9 g, 13.0 mmol) was added to a suspension of 3-nitro-1,8-naphthalic anhydride (2.0 g, 8.2 mmol) in pyridine (30 mL). The mixture was refluxed for 3 hours and concentrated in vacuo to give a brown solid. The solid was suspended in water, stirred, filtered, and dried to give 2.1 g of the title compound, mp 277-279° C.

reactant | Hydroxylamine hydrochloride | 13.0 mmol, 0.9 g | Cl.NO
reactant | 3-nitro-1,8-naphthalic anhydride | 8.2 mmol, 2.0 g | C1=CC2=CC(=CC3=C2C(=C1)C(=O)OC3=O)[N+](=O)[O-] | C12H5NO5
solvent | pyridine | 30 mL | N1=CC=CC=C1 | C5H5N
solvent | water | O | H2O
product | 2-Hydroxy-5-nitro-benzo[de]isoquinoline-1,3-dione | 2.1 g | ON1C(C2=CC=CC=3C2=C(C1=O)C=C(C3)[N+](=O)[O-])=O | C12H6N2O5
